US06914062B2
1) 2-cyclopentyl-4-nitro-1H-isoindole-1,3(2H)-dione
To a solution of 3-nitrophthalimide (3.85 g, 20.0 mmol), cyclopentanol (2.24 g, 26.0 mmol) and triphenylphosphine (6.87 g, 26.2 mmol) in tetrahydrofuran 30 ml was dropwise added 40% toluene solution (11.4 ml) of diethyl azocarboxylate under stirring in a nitrogen stream. The mixture was concentrated in vacuo, and the precipitate formed upon addition of ether was filtered off. After the filtrate was concentrated in vacuo, the residue was purified by silica gel column chromatography (hexane-ethyl acetate, 3:1) to give the title compound (3.87 g) as a colorless solid.

reactant | 3-nitrophthalimide | 20.0 mmol, 3.85 g | [N+](=O)([O-])C1=C2C(C(=O)NC2=O)=CC=C1 | C8H4N2O4
reactant | cyclopentanol | 26.0 mmol, 2.24 g | C1(CCCC1)O | C5H10O
reactant | triphenylphosphine | 26.2 mmol, 6.87 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azocarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | toluene | 11.4 ml | C1(=CC=CC=C1)C | C7H8
product | 2-cyclopentyl-4-nitro-1H-isoindole-1,3(2H)-dione | 3.87 g | C1(CCCC1)N1C(C2=CC=CC(=C2C1=O)[N+](=O)[O-])=O | C13H12N2O4
